US03965125
To a suspension of 750 g of monosodium-4-chlorophthalate and 1200 ml water was added 120 ml conc. sulfuric acid. The resulting brown solution was extracted with three 400 ml portions of ether. The combined extracts were treated with carbon black, filtered and the ether distilled. The 4-chlorophthalic acid obtained was dehydrated by heating to 170°C for two hours to give 548 g of anhydride. To a solution of the anhydride in 2250 ml of xylene was added 279 g of aniline diluted with an equal weight of xylene. The solution was refluxed for 16 hours and the water formed was collected in a Dean-Stark trap. After treatment with carbon black the hot xylene solution was cooled to 5°C to give 475 g of crude 4-chloro-N-phenyl phthalimide. Recrystallization from 2000 ml toluene, twice, provided 364 g of 92% pure imide.

reactant | monosodium 4-chlorophthalate | 750 g | [Na].ClC=1C=C(C(C(=O)[O-])=CC1)C(=O)[O-]
reactant | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1200 ml | O | H2O
product | 4-chlorophthalic acid | ClC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5ClO4
